Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.04681657047
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],4.06761855422
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],2.05670253199
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],-0.814435582351
[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]1=[C:3][O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-1.28899592689
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])#[C:7][H:8].[H:1][C:2]([C:3]([H:4])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])([H:9])[H:10],1.34136776192
[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][O:10][H:11].[H:9],2.60281384407
[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[H:13].[O:6]=[C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.32876291869
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7]>>[H:1][O:2][C:3]#[C:4][H:5].[O:6][H:7],3.2363157584099995
[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])[C:13][H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])=[C:13]([H:14])[H:15],-5.30821901061
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:12].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11],3.85667052569
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:4][C:5],3.18185171851
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:5]([H:6])([O:7][H:8])[O:9][H:10].[H:4],2.09797558002
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],1.89390928246
[C:2](#[C:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.65459354359
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1],8.008032254460003
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:4][H:5],2.82023343506
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],6.24213266955
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7],2.9579181618
[H:13].[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.95450611892
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14]>>[C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14].[H:1][O:2],6.21198158173
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-7.726602379530001
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9](=[O:10])[H:11]>>[C:9](=[O:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],4.3460521528800005
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],4.6028396289
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[C:2]#[C:3][O:4][C:5][C:6]([H:7])[H:8].[H:1],5.47424859934
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])=[O:6],0.322679800569
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:15][H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.206878799059997
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][H:8].[H:6],2.90066700666
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8]([H:9])[H:10],2.39384067262
